US06437184B1
To a mixture of 0.34 g of (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenoxy)acetone and 10 ml of pyridine was added 0.11 g of O-ethylhydroxylamine hydrochloride. After stirring at room temperature for 24 hours, the reaction mixture was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.32 g (yield, 81%) of (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)acetone O-ethyloxime, m.p., 65.4° C.

reactant | (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)-phenoxy)acetone | 0.34 g | ClC1=C(OCC(C)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H10Cl4O3
reactant | O-ethylhydroxylamine hydrochloride | 0.11 g | Cl.C(C)ON
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)acetone O-ethyloxime | 0.32 g, 81% | C(C)ON=C(C)COC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl | C14H15Cl4NO3
